US04201784
2-[4'-(5"-nitrofuryl-2")-1,3-butadienyl]quinoline-4-carboxylic acid chloride hydrochloride was prepared as described in Example 1 from 2-[4-(5"-nitrofuryl-2")-1,3-butadienyl]quinoline-4-carboxylic acid and thionyl chloride with the yield of 78%, m.p. 230°-232° C. (with decomposition).

reactant | quinoline-4-carboxylic acid | N1=CC=C(C2=CC=CC=C12)C(=O)O | C10H7NO2
reactant | thionyl chloride | S(=O)(Cl)Cl | Cl2OS
product | quinoline-4-carboxylic acid chloride hydrochloride | yield of 78% | Cl.N1=CC=C(C2=CC=CC=C12)C(=O)Cl | InChI=1S/C10H6ClNO.ClH/c11-10(13)8-5-6-12-9-4-2-1-3-7(8)9;/h1-6H;1H
